US06803378B2
Step 3: Preparation of (Z)-2,2-Dimethyl-5-(tert-butyldiphenylsilyloxycarbonyl-methylene)-1,3-dioxolan-4-one (III):
A solution of 4-bromo-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldiphenylsilyl ester (˜26 g, 52.4 mmol) in dry tetrahydrofuran (160 ml) was cooled to 0° C. and treated dropwise over 5 minutes with 1,8-diazabicyclo [5,4,0] undec-7-ene (12.7 g, 78.8 mmol) and the resulting mixture was stirred at 5° C. for 1.5 hour. The solid formed was filtered and washed with a small amount of tetrahydrofuran. The filtrate was used as such for the next step.

reactant | 4-bromo-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldiphenylsilyl ester | 52.4 mmol, ˜26 g | BrC1(OC(OC1=O)(C)C)CC(=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H27BrO5Si
reactant | 1,8-diazabicyclo [5,4,0] undec-7-ene | 78.8 mmol, 12.7 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | (Z)-2,2-Dimethyl-5-(tert-butyldiphenylsilyloxycarbonyl-methylene)-1,3-dioxolan-4-one | CC1(O\C(\C(O1)=O)=C/C(=O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C23H26O5Si
